US07189880B2
The mixture containing 4,4′-dihydroxydiphenylsulfone, 2,4′-dihydroxydiphenylsulfone, phenolsulfonic acid and phenol which is obtained by adding phenol and sulfuric acid to the filtrate formed by filtration of 2,4′-dihydroxydiphenylsulfone, followed by the dehydration of the resultant mixture, can be treated in the same manner as that in the treatments of the mixture containing 4,4′-dihydroxydiphenylsulfone, 2,4′-dihydroxydiphenylsulfone, phenolsulfonic acid and phenol which is obtained by the dehydration of phenol and sulfuric acid. 4,4′-Dihydroxydiphenylsulfone is separated by crystallization to obtain a mixture having a content of 2,4′-dihydroxydiphenylsulfone greater than the content of 4,4′-dihydroxydiphenylsulfone. 2,4′-Dihydroxydiphenylsulfone is crystallized by adjusting the composition of the mixture so that the ratio of the amounts by weight of phenol to water is in the range of 10:90 to 90:10; and the formed crystals are separated by filtration. The filtrate formed above by the filtration and containing phenol and phenolsulfonic acid can be used repeatedly as the raw material for producing dihydroxydiphenylsulfone by the dehydration of phenol and sulfuric acid and/or phenolsulfonic acid.

reactant | phenol | C1(=CC=CC=C1)O | C6H6O
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
product | 2,4′-dihydroxydiphenylsulfone | C1=CC=C(C(=C1)O)S(=O)(=O)C2=CC=C(C=C2)O | C12H10O4S
